US04595689
A stirred suspension of 4-(8-bromodibenz[b,f]oxepin-10-yl)-1-methylpyridinium iodide (2.7 g) in methanol (50 ml) was treated with sodium borohydride (1.04 g) and 15 ml of water. The mixture was stirred at ambient temperature for thirty minutes and then was diluted with 175 ml of water. The resulting solid was filtered off, washed with water and then was dissolved in dichloromethane (100 ml). The organic solution was washed with water, then was dried (potassium carbonate) and evaporated in vacuo. A solution of the residual solid in ethyl acetate (75 ml) was treated with a solution of maleic acid (0.64 g) in ethanol (5 ml). The crystalline product was recovered in two crops to give a total yield of 2.0 g of 4-(8-bromodibenz[b,f]oxepin-10-yl)-1,2,3,6-tetrahydro-1-methylpyridine, (Z)-2-butenedioate (1:1) salt, mp 186°-188°.

reactant | 4-(8-bromodibenz[b,f]oxepin-10-yl)-1-methylpyridinium iodide | 2.7 g | [I-].BrC=1C=CC2=C(C(=CC3=C(O2)C=CC=C3)C3=CC=[N+](C=C3)C)C1
reactant | sodium borohydride | 1.04 g | [BH4-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 175 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | 4-(8-bromodibenz[b,f]oxepin-10-yl)-1,2,3,6-tetrahydro-1-methylpyridine | yield of 2.0 g | BrC=1C=CC2=C(C(=CC3=C(O2)C=CC=C3)C=3CCN(CC3)C)C1 | C20H18BrNO
